US04923861
2-(Dimethylamino)-4-(4-fluorophenyl)-3-quinolinecarboxaldehyde (4.20 g) is dissolved in 100 ml of dichloromethane and (5.25 g, 1.1 equivalents) of methyl (triphenylphosphoranylidene) acetate is added in one portion. The reaction is stirred at room temperature for three days, evaporated, and the residue eluted through a 3-inch silica column to give 4.60 g of (E)-methyl-3-[2-(dimethylamino)-4-(4-fluorophenyl)-3-quinolinyl]-2-propenoate as an orange solid; 1H NMR (chloroform-d): δ 7.78-6.87 (m, 9H), 5.98 (d, 1H), 3.60 (s, 3H), 2.95 (s, 6H) ppm.

reactant | 2-(Dimethylamino)-4-(4-fluorophenyl)-3-quinolinecarboxaldehyde | 4.20 g | CN(C1=NC2=CC=CC=C2C(=C1C=O)C1=CC=C(C=C1)F)C | C18H15FN2O
reactant | methyl (triphenylphosphoranylidene) acetate | 5.25 g, 1.1 equivalents | COC(=O)C=P(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3 | C21H19O2P
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (E)-methyl-3-[2-(dimethylamino)-4-(4-fluorophenyl)-3-quinolinyl]-2-propenoate | 4.60 g | COC(\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)N(C)C)=O | C21H19FN2O2
